Name:  ___           Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
lisinopril / amlodipine
 
Attending: ___.
 
Chief Complaint:
Chest discomfort/palpitations
 
Major Surgical or Invasive Procedure:
AVNRT ablation

 
History of Present Illness:
Mr. ___ is a ___ man with a past medical history of 
hypertension and tobacco use who presents to the emergency 
department for evaluation of chest
discomfort. 

Patient describes that he was driving to work on day of 
presenation when he had a brief left chest discomfort that 
associated with lightheadedness and arm weakness. 

These symptoms lasted from seconds to minutes. They continued to 
occur intermittently throughout the morning so the patient 
presented to an outpatient clinic. There patient was found to be 
have a regular narrow complex SVT. EMS was called. 

On EMS arrived, heart rate was in the 140s and twelve-lead 
showed evidence of SVT. After a peripheral IV was inserted, SVT 
broke and he went back in sinus rhythm in the ___. 

En route to the hospital, patient again had another episode of 
SVT which broke with a vagal maneuver. On arrival, patient 
stated he felt well without any pain or discomfort. Stated 
symptoms not pleuritic or exertional. 

On initial interview, patient denied recent illness, fevers or 
chills. No cough. No recent medication changes. No recent travel 
or surgeries. Has never experienced anything like this in the 
past. He denies medication noncompliance
 
Past Medical History:
PUD, 
renal calculi with bilateral stents, 
HTN
upper endoscopy and appears to be being treated for H. pylori. 
___ ago
 
Social History:
___
Family History:
Reviewed and found to be non-contributory to current 
presentation

 
Physical Exam:
Admission PE:
VITALS: 97.8  164/95  55  18  96Ra 
GENERAL: Alert and interactive.
HEENT: NCAT. 
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No
murmurs/rubs/gallops.
LUNGS: Clear to auscultation bilaterally. 
ABDOMEN: Normal bowels sounds, non distended, non-tender 
EXTREMITIES: No clubbing, cyanosis, or edema. 
SKIN: Warm. No rash.
NEUROLOGIC: CN2-12 intact. AOx3.

Discharge PE:
VS: 97.4, 130-157/82-100, 60-81, 18, 95% RA
Weight: 77.9 kg/171 LB
Telemetry: Sinus ___ first-degree AV block, no ectopy
GENERAL: Pleasant ___ speaking gentleman, sitting up in
bed, NAD, alert and interactive.
HEENT: NCAT. 
CARDIAC: Regular rhythm, normal rate. S1S2. No MRG 
LUNGS: LS CTA bilaterally
ABDOMEN: Normal bowels sounds, non distended, non-tender 
EXTREMITIES: No clubbing, cyanosis, or edema. 
SKIN: Warm. No rash.
NEUROLOGIC:  AOx3.

 
Pertinent Results:
EKG: ___: Sinus bradycardia, rate 50's, AV delay (PR 234)

EKG (pre-hospital): Regular narrow complex tachycardia with rate
160, no clear flutter waves or p waves; initiation and
termination or arrhythmia not captured

ETT echo ___:
Average functional exercise capacity for age and gender. No 
ischemic ECG
changes with no symptoms. No 2D echocardiographic evidence of 
inducible ischemia to achieved treadmill stress. No Doppler 
evidence for a change in left ventricular filling pressure with 
exercise.
Resting systolic hypertension with a normal blood pressure and a 
normal heart rate respose to achieved treadmill stress. 
Moderately increased pulmonary artery systolic pressure at rest 
with no change after exercise.

TTE ___:
The left atrial volume index is mildly increased. The right 
atrium is mildly enlarged. There is mild symmetric left 
ventricular hypertrophy with a normal cavity size. There is 
normal regional and global left ventricular
systolic function. Quantitative biplane left ventricular 
ejection fraction is 68 %. There is no resting left ventricular 
outflow tract gradient. Normal right ventricular cavity size 
with normal free wall motion. The aortic sinus diameter is 
normal for gender with normal ascending aorta diameter for 
gender. The aortic arch is mildly dilated. The aortic valve 
leaflets (3) appear structurally normal. There is no aortic 
valve stenosis. There is no aortic regurgitation. The mitral 
valve leaflets appear structurally normal with no mitral valve 
prolapse. There is
trivial mitral regurgitation. The tricuspid valve leaflets 
appear structurally normal. There is mild [1+] tricuspid 
regurgitation. The estimated pulmonary artery systolic pressure 
is normal. There is no pericardial effusion.
.
AVNRT ablation report PND
 
Brief Hospital Course:
ASSESSMENT AND PLAN:
Mr. ___ is a ___ man with a past medical history of
hypertension and tobacco use who presented to the emergency
department ___ for evaluation of chest discomfort, found to 
have
intermittent SVT which broke with vagal maneuvers and IV
metoprolol. 

# Supraventricular tachycardia: Suspected AVNRT, ablation today 
that req mult ablations and lesion near bundle of HISS. Possible 
bypass tract but more likely AVNRT. SVT was inducible after the 
procedure and Pt may need another ablation in the future. 
Metoprolol restarted on DC. Aspirin 81 mg started for anti 
inflammation. 

# Troponin: In the setting of SVT 140s-150s, thought rate 
related. ETT echo negative for ischemic changes or arrhythmia. 
Imaging revealed normal augmentation with exercise. TTE notable 
for mild LVH and mild biatrial enlargement. 

# HTN: Poorly controlled on triple therapy, mild LVH on echo. 
Felodipine 10 mg added yesterday will not yet manifest full
efficacy. Continued home HCTZ 50 mg QD, Losartan Potassium 100 
mg QD. 

# HLD /CVD risk: Patient with > 15% ___ year risk of CVD. Lipids
today under good control. Started atorvastatin 40 mg. 

# GERD: Continued Omeprazole 20 mg PO DAILY 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Albuterol Inhaler 2 PUFF IH Q6H:PRN wheeze 
2. Hydrochlorothiazide 50 mg PO DAILY 
3. Losartan Potassium 100 mg PO DAILY 
4. Metoprolol Succinate XL 200 mg PO DAILY 
5. Omeprazole 20 mg PO DAILY 
6. Doxazosin 4 mg PO HS 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY  
2.  Atorvastatin 40 mg PO QPM  
3.  Felodipine 10 mg PO DAILY  
4.  Albuterol Inhaler 2 PUFF IH Q6H:PRN wheeze  
5.  Doxazosin 4 mg PO HS  
6.  Hydrochlorothiazide 50 mg PO DAILY  
7.  Losartan Potassium 100 mg PO DAILY  
8.  Metoprolol Succinate XL 200 mg PO DAILY  
9.  Omeprazole 20 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Atrioventricular non-reentry tachycardia
Hypertension
Hyperlipidemia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You had an supraventricular tachycardia ablation to treat your 
irregular heart rhythm, AVNRT.  
 Continue all your current medications with the following 
changes:  
1. Start aspirin 81 mg daily to prevent inflammation in your 
heart
2. Start atorvastatin to lower your cholesterol. 
3. Start felodipine for your blood pressure  
4. Continue metoprolol at home. 

It is possible that you might need another ablation in the 
future. You have an appointment with Dr ___ in about a 
month to talk about this more.   
 
 Activity restrictions and information regarding care of the 
access sites in the groin are included in your discharge 
instructions.  
 If you have any urgent questions that are related to your 
recovery from your procedure or are experiencing any symptoms 
that are concerning to you and you think you may need to return 
to the hospital, please call the ___ HeartLine at ___ 
to speak to a cardiologist or cardiac nurse practitioner.  
 It has been a pleasure to have participated in your care and we 
wish you the best with your health!  
 Your ___ Cardiac Care Team  

 
Followup Instructions:
___